US05464865
Commercially available 2,6,6-trimethyl-1-cyclohexene-1-acetaldehyde is chain-extended by Wittig reaction with commercially available 2-(1,3-dioxan-2-yl)ethyl triphenylphosphonium bromide as follows: To a stirred suspension of the phosphonium salt (20.4 g) in THF (30 ml) is added HMPA (30 ml). The mixture is cooled to -70° under nitrogen and n-butyllithium (17.5 ml of 2.5M solution in hexane) is added dropwise. After 30 minutes the aldehyde (6.65 g in 10 ml THF) is added and the mixture is allowed to warm slowly to room temperature. Water and hexane are added, the organic phase is evaporated and the residue chromatographed with 40% dichloromethane in hexane to provide crude (mostly cis) 2-[4-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2-butenyl]-1, 3-dioxane as a colorless oil (5.26 g). This material is hydrogenated in ethanol over a 5% Pd/BaSO4 catalyst for 18 hr under 40 psi hydrogen. Filtration and evaporation provide crude 2-[4 -(2,6,6-trimethyl-1-cyclohexen-1-yl)butyl]-1,3-dioxane as a colorless oil. This is hydrolyzed with acid in refluxing 1:1 dioxane-water to provide 5-(2,6,6-trimethyl-1-cyclohexen-1-yl)pentanal as a colorless oil.

reactant | 2,6,6-trimethyl-1-cyclohexene-1-acetaldehyde | CC1=C(C(CCC1)(C)C)CC=O | C11H18O
reactant | 2-(1,3-dioxan-2-yl)ethyl triphenylphosphonium bromide | [Br-].O1C(OCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | phosphonium | 20.4 g | [PH4+]
reactant | n-butyllithium | 2.5M, 17.5 ml | C(CCC)[Li]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
solvent | HMPA | 30 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-[4-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2-butenyl]-1, 3-dioxane | 5.26 g | CC1=C(C(CCC1)(C)C)CC=CCC1OCCCO1 | C17H28O2
